US07795179B2
According to method of U.S. Pat. No. 3,781,438, 2 g of ethyl 3-(4-nitrophenyl)-3-oxopropanoate was dissolved in methanol, slightly excessive hydroxylamine hydrochloride and equivalent amount of sodium hydroxide were added, the mixture was heated to reflux. 3 hr later, the reaction was traced by Thin-Layer Chromatography, water was added to the reaction mixture, extracted with ethyl acetate, dried and concentrated to obtain 3-(4-nitrophenyl)isoxazol-5-ol as solid.

reactant | ethyl 3-(4-nitrophenyl)-3-oxopropanoate | 2 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11NO5
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-(4-nitrophenyl)isoxazol-5-ol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NOC(=C1)O | C9H6N2O4
